US05225426
solution of 5 g of m-aminoacetophenone in 100 ml of acetone was combined with 25 ml of water and 15 ml of 47% hydrobromic acid and the resultant mixture was stirred for 30 minutes with 10 ml of an aqueous solution containing 3.32 g of sodium nitrite added dropwise in advance thereto at 5 C. The produced reaction solution and 28 ml of ethyl acrylate added dropwise thereto and 0.53 g of copper (I) oxide added piecemeal thereto at 40° C. were stirred for 2 hours. The resultant mixture was combined with water, extracted with ethyl acetate An organic layer was washed with water and a saturated aqueous saline solution, dried with anhydrous magnesium sulfate, and distilled under a vacuum to expel the solvent to obtain ethyl 2-bromo-3-(3-acetylphenyl)propionate.

reactant | m-aminoacetophenone | 5 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | hydrobromic acid | 15 ml | Br | BrH
reactant | sodium nitrite | 3.32 g | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 28 ml | C(C=C)(=O)OCC | C5H8O2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | copper (I) oxide | 0.53 g | [Cu-]=O
solvent | water | O | H2O
solvent | water | 25 ml | O | H2O
product | ethyl 2-bromo-3-(3-acetylphenyl)propionate | BrC(C(=O)OCC)CC1=CC(=CC=C1)C(C)=O | C13H15BrO3
